US05028604
Colorless crystals of 3-(2-indenylacetyl)-L-thioproline were prepared in the same manner as Reference Example 10, except that 2-indenylacetyl chloride and L-thioproline were used instead of 2-indanylacetyl chloride and L-piperidin-2-ylcarboxylic acid, respectively (yield: 44%).

reactant | 2-indenylacetyl chloride | C1(C=CC2=CC=CC=C12)CC(=O)Cl | C11H9ClO
reactant | L-thioproline | N1[C@H](C(=O)O)CSC1 | C4H7NO2S
reactant | 2-indanylacetyl chloride | C1(CCC2=CC=CC=C12)CC(=O)Cl | C11H11ClO
product | 3-(2-indenylacetyl)-L-thioproline | yield: 44% | C1(C=CC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)O | C15H15NO3S
